US05811459
Methyl 4-[3-(3-hydroxy-2-pyridyl)propyl]benzoate (0.87 g, 3.2 mmol) was dissolved in DMF (5 ml) and treated with benzyl bromide (0.66 g, 3.9 mmol) and potassium carbonate (0.53 g, 3.8 mmol). The reaction was stirred at ambient temperature potassium overnight and then partitioned between EtOAc/water. The organic phase was washed well with water, dried (MgSO4) and evaporated. The residue was purified (SiO2, CH2Cl2 /EtOAc) to give methyl 4-[3-(3-benzyloxy-2-pyridyl)propyl]benzoate as a pale yellow oil.

reactant | Methyl 4-[3-(3-hydroxy-2-pyridyl)propyl]benzoate | 3.2 mmol, 0.87 g | OC=1C(=NC=CC1)CCCC1=CC=C(C(=O)OC)C=C1 | C16H17NO3
reactant | benzyl bromide | 3.9 mmol, 0.66 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3.8 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium | [K] | K
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-[3-(3-benzyloxy-2-pyridyl)propyl]benzoate | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CCCC1=CC=C(C(=O)OC)C=C1 | C23H23NO3
